US05145954
A solution of methyl 2-(2-[4-fluorophenyl]ethyl)phenylacetate (2.83g) and methyl formate (12.8ml) in dry DMF (20ml) was added dropwise over 20 minutes to a stirred suspension of sodium hydride (0.50g) in dry DMF (30ml) cooled in an ice bath. Effervescence and foaming built up slowly, and, when it had subsided, the mixture was allowed to warm to room temperature and stir for 3.5 hours. The mixture was diluted with water, acidified with concentrated hydrochloric acid and extracted with ether. The extracts were washed with water, dried and concentrated. A stirred solution of the resulting viscous yellow oil (3.34g) in DMF (30ml) was treated successively with potassium carbonate (3.05g) and dimethyl sulphate (1.54g). After 2 hours, the reaction mixture was poured into water and extracted with ether. The extracts were washed with water, dried, concentrated and chromatographed using 30% ether in petrol to give (E)-methyl 2-(2-[2-(4-fluorophenyl)ethyl]phenyl)-3-methoxypropenoate (2.64g, 81% yield) as a colourless solid m.p. 411/2°-421/2° C., lH NMR (CDCl3); delta 2.76 (4H,br s), 3.70 (3H,s), 3.82 (3H,s), 7.58 (1H,s), ppm.

reactant | methyl 2-(2-[4-fluorophenyl]ethyl)phenylacetate | 2.83g | FC1=CC=C(C=C1)CCC1=C(C=CC=C1)CC(=O)OC | C17H17FO2
reactant | methyl formate | 12.8ml | C(=O)OC | C2H4O2
reactant | sodium hydride | 0.50g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 20ml | CN(C)C=O | C3H7NO
solvent | DMF | 30ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (E)-methyl 2-(2-[2-(4-fluorophenyl)ethyl]phenyl)-3-methoxypropenoate | 2.64g, 81% yield | FC1=CC=C(C=C1)CCC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC | C19H19FO3
